US05994344
Benzo[b]thiophene-3-sulfonic acid potassium salt
Concentrated sulphuric acid (0.43 ml) was added to a cooled, stirred mixture of benzothiophene (1 g) in acetic anhydride (0.93 ml), giving a brown viscous oil, which was left to stir for 50 mins under nitrogen. The mixture was then diluted with ice to give 20 ml, extracted with ether (2×10 ml) and the aqueous phase concentrated in vacuo to give 5 ml. This was then treated with a hot saturated solution of potassium chloride (2 g), cooled and filtered to give the title compound as a pale brown solid (3.935 g).

reactant | sulphuric acid | 0.43 ml | S(O)(O)(=O)=O | H2O4S
reactant | benzothiophene | 1 g | S1C=CC2=C1C=CC=C2 | C8H6S
reactant | potassium chloride | 2 g | [Cl-].[K+]
solvent | acetic anhydride | 0.93 ml | C(C)(=O)OC(C)=O | C4H6O3
product | Benzo[b]thiophene-3-sulfonic acid potassium salt | 3.935 g | [K+].S1C2=C(C(=C1)S(=O)(=O)[O-])C=CC=C2 | InChI=1S/C8H6O3S2.K/c9-13(10,11)8-5-12-7-4-2-1-3-6(7)8;/h1-5H,(H,9,10,11);/q;+1/p-1
